US07427632B2
3-Chloro-N-[(R)-1-phenyl-2-[1-(4-pyridinyl)piperidin-4-yl-methoxy]ethyl]-1H-indole-6-carboxamide
To a suspension of 3-chloro-N-[(R)-1-phenyl-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (1.0 g, 2.2 mmol) in 20 mL of EtOH was added triethylamine (1.56 mL, 11 mmol) and 4-chloropyridine hydrochloride (336 mg, 2.2 mmol). Heating the mixture at 120° C. in a sealed tube afforded, after purification (SiO2: 8:2:1 hexane:EtOAc:isopropylamine), 185 mg (16%) of the title compound.

reactant | 3-chloro-N-[(R)-1-phenyl-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 2.2 mmol, 1.0 g | ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCNCC1)C1=CC=CC=C1 | C23H26ClN3O2
reactant | triethylamine | 11 mmol, 1.56 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloropyridine hydrochloride | 2.2 mmol, 336 mg | Cl.ClC1=CC=NC=C1
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-Chloro-N-[(R)-1-phenyl-2-[1-(4-pyridinyl)piperidin-4-yl-methoxy]ethyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCN(CC1)C1=CC=NC=C1)C1=CC=CC=C1 | C28H29ClN4O2
